US05656629
Sodium (590 mg) was dissolved in ethanol (45 mL) and then 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (2.65 g, 12 mmol), followed by methyl 2-methoxyphenylacetate (4.7 g, 26 mmol) were added. The reaction mixture was refluxed overnight, the solvent was stripped and the residue was treated with water and then 2N HCl. The product was collected by filtration and recrystallized from ethyl acetate to afford 2.23 g of 1-cyclopentyl-3-ethyl-6-(2-methoxyphenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one, m.p. 145°-146° C.

reactant | Sodium | 590 mg | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 12 mmol, 2.65 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | methyl 2-methoxyphenylacetate | 26 mmol, 4.7 g | COC1=C(C=CC=C1)CC(=O)OC | C10H12O3
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 45 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-cyclopentyl-3-ethyl-6-(2-methoxyphenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one | 2.23 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC2=C(C=CC=C2)OC)CC | C20H24N4O2
